US07645789B2
To a cooled solution of LiAlH4 (1.0 M in THF, 1.2 mL, 1.2 mmol) in THF (5.3 mL) at 0° C. was added a solution of ethyl 2-(5-nitro-1H-indol-2-yl)propanoate (0.20 g, 0.76 mmol) in THF (3.66 mL) dropwise. After addition, the mixture was allowed to warm up to room temperature and was stirred at room temperature for 3 h. The mixture was cooled to 0° C. Water (2 mL) was slowly added followed by careful addition of 15% NaOH (2 mL) and water (4 mL). The mixture was stirred at room temperature for 0.5 h and was then filtered through a short plug of celite using ethyl acetate. The organic layer was separated from the aqueous layer, dried over Na2SO4, filtered and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (ethyl acetate/hexane=1/1) to give 2-(5-nitro-1H-indol-2-yl)propan-1-ol (0.14 g, 81%).

reactant | LiAlH4 | 1.2 mmol, 1.0 M, 1.2 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl 2-(5-nitro-1H-indol-2-yl)propanoate | 0.76 mmol, 0.20 g | [N+](=O)([O-])C=1C=C2C=C(NC2=CC1)C(C(=O)OCC)C | C13H14N2O4
reactant | Water | 2 mL | O | H2O
reactant | NaOH | 2 mL | [OH-].[Na+]
reactant | water | 4 mL | O | H2O
solvent | THF | 5.3 mL | C1CCOC1 | C4H8O
solvent | THF | 3.66 mL | C1CCOC1 | C4H8O
product | 2-(5-nitro-1H-indol-2-yl)propan-1-ol | 0.14 g, 81% | [N+](=O)([O-])C=1C=C2C=C(NC2=CC1)C(CO)C | C11H12N2O3
